US08067447B2
2-((1-(4-Fluorophenyl)-1H-indazol-5-yl)(phenyl)methyl)-N-(1,3,4-thiadiazol-2-yl)butanamide
Example 142 was prepared from 2-((1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methyl)butanoic acid (180 mg, 0.26 mmol) and 1,3,4-thiadiazol-2-amine using General Coupling Method B to give 75 mg (35% yield). MS found: (M+H)+=472.

reactant | 2-((1-(4-fluorophenyl)-1H-indazol-5-yl)(phenyl)methyl)butanoic acid | 0.26 mmol, 180 mg | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)O)CC)C1=CC=CC=C1 | C24H21FN2O2
reactant | 1,3,4-thiadiazol-2-amine | S1C(=NN=C1)N | C2H3N3S
product | 2-((1-(4-Fluorophenyl)-1H-indazol-5-yl)(phenyl)methyl)-N-(1,3,4-thiadiazol-2-yl)butanamide | 35% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)NC=1SC=NN1)CC)C1=CC=CC=C1 | C26H22FN5OS
